US06320069B1
Reaction was carried out in the same manner as in Example 16. After the peak due to (S)-2)-methoxycyclohexanol had disappeared, the reaction solution was given 2 g of sodium hydrogensulfite with stirring so that the reaction solution did not change potassium iodide starch paper into purple any longer. The reaction solution was adjusted to pH 2 or below with 10% sulfuric acid, followed by stirring at 20-25° C. for 1 hour. The reaction solution was adjusted to pH 7.5-8 with an aqueous solution of sodium carbonate, followed by stirring at 20-25° C. for 1 hour. The reaction solution was adjusted again to pH 2 or below with 10% sulfuric acid, followed by stirring at 20-25° C. for 2 hours. The reaction solution was extracted three times with 100 g of toluene. The toluene layers were combined together and washed with a saturated aqueous solution of sodium chloride. After concentration and distillation in the same manner as in Example 1, there was obtained 10.3 g (80 mmol) of (S)-2-methoxycyclohexanone having a chemical purity of 99.3% and an optical purity of 99.6% ee. This product was heated at 60° C. for 48 hours in the same manner as in Example 16; it decreased in optical purity to 99.0% ee.

reactant | methoxycyclohexanol | COC1(CCCCC1)O | C7H14O2
reactant | sodium hydrogensulfite | 2 g | S(=O)(O)[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-methoxycyclohexanone | 80 mmol, 10.3 g | CO[C@@H]1C(CCCC1)=O | C7H12O2
